US08097617B2
A mixture of 6-(2,4-dichloro-phenyl)-3-(2-fluoro-pyridin-4-yl)-8-isobutoxy-imidazo[1,2-a]pyridine-7-carbonitrile (46.6 mg, 0.10 mmol) and morpholine (0.045 mL, 0.51 mmol) in DMSO (0.8 mL) was heated at 180° C. and stirred for 30 min. The reaction mixture was cooled to RT, diluted in AcOEt (20 mL) and washed with water (2×10 ml). The organic layer was dried over Na2SO4, filtered, and evaporated to dryness to yield the crude 6-(2,4-dichloro-phenyl)-8-isobutoxy-3-(2-morpholin-4-yl-pyridin-4-yl)-imidazo[1,2-a]pyridine-7-carbonitrile intermediate.

reactant | 6-(2,4-dichloro-phenyl)-3-(2-fluoro-pyridin-4-yl)-8-isobutoxy-imidazo[1,2-a]pyridine-7-carbonitrile | 0.10 mmol, 46.6 mg | ClC1=C(C=CC(=C1)Cl)C=1C(=C(C=2N(C1)C(=CN2)C2=CC(=NC=C2)F)OCC(C)C)C#N | C23H17Cl2FN4O
reactant | morpholine | 0.51 mmol, 0.045 mL | N1CCOCC1 | C4H9NO
solvent | DMSO | 0.8 mL | CS(=O)C | C2H6OS
solvent | AcOEt | 20 mL | CCOC(=O)C | C4H8O2
product | 6-(2,4-dichloro-phenyl)-8-isobutoxy-3-(2-morpholin-4-yl-pyridin-4-yl)-imidazo[1,2-a]pyridine-7-carbonitrile | ClC1=C(C=CC(=C1)Cl)C=1C(=C(C=2N(C1)C(=CN2)C2=CC(=NC=C2)N2CCOCC2)OCC(C)C)C#N | C27H25Cl2N5O2
